US08242133B2
Water was added to 3.20 g of sodium hydroxide to make 30 ml of aqueous solution in total. To the solution, 5.83 g of 3-iodo-isonicotinic acid methyl ester (U.S. Pat. No. 6,277,871B1, O'Conner et al.) was added. The mixture solution was stirred while heating at 60° C. for three hours. The reaction mixture was cooled in ice, to which concentrated hydrochloric acid was added to adjust pH to 2-3. Precipitates were collected by filtration and dried under reduced pressure to give 5.21 g of 3-iodo-isonicotinic acid.

reactant | sodium hydroxide | 3.20 g | [OH-].[Na+]
reactant | 3-iodo-isonicotinic acid methyl ester | 5.83 g | COC(C1=C(C=NC=C1)I)=O | C7H6INO2
reactant | hydrochloric acid | Cl | ClH
solvent | Water | O | H2O
product | 3-iodo-isonicotinic acid | 5.21 g | IC1=C(C(=O)O)C=CN=C1 | C6H4INO2
